US06323223B1
1,1′-Carbonyldiimidazole (1.61 g, 9.91 mmol) was added to a solution of 4-amino-5-chloro-2-methoxybenzoic acid (2.0 g, 9.91 mmol) in dimethylformamide (5 ml). After stirring for 5 min. at room temperature, solution of N-tert-butyloxycarbonyl-4-(aminomethyl)piperidine (1.77 g, 8.26 mmol) in dimethylformamide (5 ml) was added and the reaction mixture was heated at 55° C. After 23 h, the product was extracted into ethyl acetate and the organic layer was washed with aqueous sodium bicarbonate, dried over magnesium sulfate, filtered and concentrated. Flash chromatography of the crude product with 2:1, ethyl acetate/hexanes as the eluant gave N-tert-butyloxycarbonyl-4-(4-amino-5-chloro-2-methoxyphenylcarbonylaminomethyl)piperidine (2.63 g) as a foam.

reactant | 1,1′-Carbonyldiimidazole | 9.91 mmol, 1.61 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 9.91 mmol, 2.0 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | N-tert-butyloxycarbonyl-4-(aminomethyl)piperidine | 8.26 mmol, 1.77 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-tert-butyloxycarbonyl-4-(4-amino-5-chloro-2-methoxyphenylcarbonylaminomethyl)piperidine | 2.63 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC(=O)C1=C(C=C(C(=C1)Cl)N)OC | C19H28ClN3O4
